US06355653B1
A mixture of 30 mg (0.1 mmol) 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine, 15.5 mg (0.11 mmol) p-tolyl-boronic acid, and 0.1 ml aqueous 2M Na2CO3 in 0.5 ml 1,2-dimethoxyethane was treated with 6 mg (0.01 mmol) tetrakis-(triphenylphosphine)-palladium(0) and heated to 90° C. for 15 h. Water was added and the mixture was adjusted to pH=12 with 2M NaOH and extracted with ethylacetate. The organic phases were dried with Na2SO4 and concentrated under reduced pressure yielding 22 mg (71%) 2-phenyl-7-p-tolyl-3H-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine, MS m/e (%): 300 (M+, 100).

reactant | 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.1 mmol, 30 mg | BrC1=CC=2N(C(=C1)N)N=C(N2)C2=CC=CC=C2 | C12H9BrN4
reactant | p-tolyl-boronic acid | 0.11 mmol, 15.5 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 0.5 ml | COCCOC | C4H10O2
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 0.01 mmol, 6 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Water | O | H2O
product | 2-phenyl-7-p-tolyl-3H-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 22 mg, 71% | C1(=CC=CC=C1)C1NN2C(C=C(C=C2N)C2=CC=C(C=C2)C)=N1 | C19H18N4
